US07816401B2
Synthesis of (3aS,4E,6S,7S,11R,13aR)-11-{[tert-butyl(dimethyl)silyl]oxy}-6,13a-dimethyl-7-[(1E)-1-methylbuta-1,3-dien-1-yl]-2-phenyl-3a,6,7,10,11,12,13,13a-octahydro-9H-[1,3]dioxolo[4,5-f]oxacyclododecin-9-one (Q10b)
(3aS,4E,6S,7S,11R,13aR)-11-{[tert-butyl(dimethyl)silyl]oxy}-7-{(1E,5S)-6-[(2R,3R)-3-((1S,2S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylbutyl)oxiran-2-yl]-3,4-dihydroxy-1,5-dimethylhex-1-en-1-yl}-6,13a-dimethyl-2-phenyl-3a,6,7,10,11,12,13,13a-octahydro-9H-[1,3]dioxolo[4,5-f]oxacyclododecin-9-one (1.46 g, 1.73 mmol) was dissolved in THF (30 ml) and water (7.5 ml), followed by addition of sodium metaperiodate (1.11 g, 5.19 mmol) at room temperature, and the mixture was stirred at the same temperature for 1.5 hours. The reaction solution was diluted with ethyl acetate and washed with distilled water and brine. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Kanto, commercial name Silica Gel 60N, 40-100 μm; heptane:ethyl acetate=10:1→8:1 5:1) to obtain the title compound Q20 (0.485 g) as a colorless oil and to obtain the title compound P18b (0.803 g) as a colorless oil. The title compound P18b was determined to be a mixture of a benzylidene acetal and β benzylidene acetal in a ratio of 1:3.2 by 1H-NMR. Compound Q20: 400 MHz 1H-NMR (CDCl3) δ (ppm) 0.06 (s, 6H), 0.81 (t, J=7.6 Hz, 3H), 0.87 (t, J=6.8 Hz, 3H), 0.89 (s, 9H), 1.20 (dd, J=0.8, 7.6 Hz, 3H), 1.28-1.39 (m, 1H), 1.42-1.56 (m, 3H), 2.05 (ddd, J=4.4, 8.0, 13.6 Hz, 1H), 2.52-2.63 (m, 1H), 2.67 (dd, J=2.4, 8.0 Hz, 1H), 2.72-2.80 (m, 1H), 3.67-3.76 (m, 1H), 9.67 (d, J=0.8 Hz, 1H); LRMS C17H35NaO3Si (M+H+) Calcd: 315.24, Found: 315.06.

reactant | (3aS,4E,6S,7S,11R,13aR)-11-{[tert-butyl(dimethyl)silyl]oxy}-7-{(1E,5S)-6-[(2R,3R)-3-((1S,2S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylbutyl)oxiran-2-yl]-3,4-dihydroxy-1,5-dimethylhex-1-en-1-yl}-6,13a-dimethyl-2-phenyl-3a,6,7,10,11,12,13,13a-octahydro-9H-[1,3]dioxolo[4,5-f]oxacyclododecin-9-one | 1.73 mmol, 1.46 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@@]2([C@H](/C=C/[C@@H]([C@H](OC(C1)=O)\C(=C\C(C([C@H](C[C@H]1O[C@@H]1[C@@H]([C@H](CC)O[Si](C)(C)C(C)(C)C)C)C)O)O)\C)C)OC(O2)C2=CC=CC=C2)C | C47H80O9Si2
reactant | sodium metaperiodate | 5.19 mmol, 1.11 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 7.5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aS,4E,6S,7S,11R,13aR)-11-{[tert-butyl(dimethyl)silyl]oxy}-6,13a-dimethyl-7-[(1E)-1-methylbuta-1,3-dien-1-yl]-2-phenyl-3a,6,7,10,11,12,13,13a-octahydro-9H-[1,3]dioxolo[4,5-f]oxacyclododecin-9-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@@]2([C@H](/C=C/[C@@H]([C@H](OC(C1)=O)\C(=C\C=C)\C)C)OC(O2)C2=CC=CC=C2)C | C31H46O5Si
